US07157464B2
Synthesis of 4-Chloro-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester
Following protocol K, 5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester was treated with glacial acetic acid and NaOCl under similar reaction conditions, yieliding the title compound.

reactant | 5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC(=C1)CCC | C9H14N2O2
reactant | NaOCl | [O-]Cl.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Chloro-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC(=C1Cl)CCC | C9H13ClN2O2
